US04578390
Step A: Preparation of 2-cyano-5-nitro-thiophene/2-cyano-4-nitro-thiophene
To a solution of 10 ml conc. sulfuric acid stirred at 0° C. was added 2-cyano-thiophene (4.0 g, 0.036 mole). Six mililiters of a mixture of 1:1 conc. sulfuric acid and fuming nitric acid was added dropwise to the solution and the temperature was maintained between 10° C. and 15° C. The reaction mixture was allowed to warm-up to room temperature after addition was completed and was stirred for an additional hour. The dark red solution was quenched with 50 ml of ice water and stirred vigorously. A yellow solid precipitated out. The solid was collected on a filter and washed with ice water (2×5 ml). This solid weighed 3.7 g (66%) and is a mixture of 4- & 5-nitro 2-cyano thiophene with 1:2 ratio.

reactant | 2-cyano-thiophene | 0.036 mole, 4.0 g | C(#N)C=1SC=CC1 | C5H3NS
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | 2-cyano-5-nitro-thiophene 2-cyano-4-nitro-thiophene | C(#N)C=1SC(=CC1)[N+](=O)[O-].C(#N)C=1SC=C(C1)[N+](=O)[O-] | 2C5H2N2O2S
